US05922868
1,3-Diethyl-7-(5-oxohexyl)xanthine (melting point 68-69° C.) is prepared from 1,3-diethylxanthine and 1-chloro-hexan-5-one.

reactant | 1,3-diethylxanthine | C(C)N1C(=O)N(C=2N=CNC2C1=O)CC | C9H12N4O2
reactant | 1-chloro-hexan-5-one | ClCCCCC(C)=O | C6H11ClO
product | 1,3-Diethyl-7-(5-oxohexyl)xanthine | C(C)N1C(=O)N(C=2N=CN(C2C1=O)CCCCC(C)=O)CC | C15H22N4O3
